US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(methyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-({[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}amino)-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (290 mg) was dissolved in DMF (5 ml), sodium hydride (60% in oil) (880 mg) was added, and the mixture was stirred at room temperature for 1 hr. Methyl iodide (98 μl) was added and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:9-7:3) was concentrated under reduced pressure to give the object product (225 mg).

reactant | tert-Butyl (3S,5R)-3-({[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}amino)-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 290 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N[C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C | C28H41N5O6
reactant | sodium hydride | 880 mg | [H-].[Na+]
reactant | Methyl iodide | 98 μl | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(methyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 225 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)C | C29H43N5O6
